US07825120B2
In a 100 mL round-bottom flask under a positive nitrogen pressure of 4-chloro-3-cyanobenzoic acid (4.28 mmol), 1-(tert-butoxycarbonyl)piperazine (1.59 g, 8.56.mmol), EDC (903 mg, 4.71 mmol) and HOBT (694 mg, 5.14 mmol) were dissolved in 17 mL of CH2Cl2. Triethylamine (1.5 mL, 10.7 mmol) was added and the reaction mixture was stirred for 20 h. After this time additional quantities of EDC (411 mg, 2.14 mmol), HOBT (290 mg, 2.14 mmol) and triethylamine (300 □L, 2.14 mmol) were added. After stirring for an additional 20 h the reaction mixture was washed with 6 mL portions of: 10% KHSO4, water, saturated NaHCO3, and saturated NaCl. The organic extracts were dried over Na2SO4, filtered and concentrated to afford 1.44 g of tert-butyl 4-(4-chloro-3-cyanobenzoyl)piperazine-1-carboxylate as a beige solid.

reactant | 4-chloro-3-cyanobenzoic acid | 4.28 mmol | ClC1=C(C=C(C(=O)O)C=C1)C#N | C8H4ClNO2
reactant | 1-(tert-butoxycarbonyl)piperazine | 1.59 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | EDC | 4.71 mmol, 903 mg
reactant | HOBT | 5.14 mmol, 694 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Triethylamine | 10.7 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | EDC | 2.14 mmol, 411 mg
reactant | HOBT | 2.14 mmol, 290 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 2.14 mmol | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 17 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(4-chloro-3-cyanobenzoyl)piperazine-1-carboxylate | 1.44 g | ClC1=C(C=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C#N | C17H20ClN3O3
